US06716861B2
tert-Butyl (3R)-6-cyclohexyl-3-({[2-hydroxy-1-(methoxycarbonyl)propyl]amino}carbonyl)hexanoate
An ice-cooled solution of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (Preparation 168) (6.40 g, 21.45 mmol) in dichloromethane (75 ml) was treated sequentially with 1-hydroxybenzotriazole hydrate (3.19 g, 23.60 mmol), threonine methyl ester hydrochloride (4.00 g, 23.60 mmol), N,N-diisopropylethylamine (7.85 ml, 45.10 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (4.52 g, 23.58 mmol) and the mixture was stirred for 17 hours being allowed to warm to room temperature over this time. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate then washed sequentially with water, aqueous citric acid solution (10% w/v), a saturated aqueous sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was dissolved in diethyl ether (100 ml) and treated with pentane (150 ml) to produce a white precipitate. This was filtered off and washed with pentane to afford the title compound as a white powder (6.48 g).

reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 21.45 mmol, 6.40 g | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1-hydroxybenzotriazole hydrate | 23.60 mmol, 3.19 g | O.ON1N=NC2=C1C=CC=C2
reactant | threonine methyl ester hydrochloride | 23.60 mmol, 4.00 g | Cl.COC([C@@H](N)[C@H](O)C)=O
reactant | N,N-diisopropylethylamine | 45.10 mmol, 7.85 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 23.58 mmol, 4.52 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | tert-Butyl (3R)-6-cyclohexyl-3-({[2-hydroxy-1-(methoxycarbonyl)propyl]amino}carbonyl)hexanoate | 6.48 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C(=O)NC(C(C)O)C(=O)OC | C22H39NO6
